US06500863B1
N-[5-(tert-butoxycarbonylamino)-5-carboxypentyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-[5-(tert-butoxycarbonylamino)-5-methoxycarbonylpentyl]-2,6-dichloro-3-nitrobenzenesulfonamide (1.2 g, 2.33 mmol), 60% NaH (379 mg, 9.32mmol) and water (84 μL, 4.66 mmol) were reacted to form the desired product (850 mg, 76%). 1H NMR (MeOD-d4): δ 8.05 (d, 1H), 7.22 (d, 1H), 4.00 (m, 1H), 3.01 (t, 2H), 1.72 (m, 2H), 1.50-1.65 (m, 4H), 1.44 (s, 9H).

reactant | N-[5-(tert-butoxycarbonylamino)-5-methoxycarbonylpentyl]-2,6-dichloro-3-nitrobenzenesulfonamide | 2.33 mmol, 1.2 g | C(C)(C)(C)OC(=O)NC(CCCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl)C(=O)OC | C18H25Cl2N3O8S
reactant | NaH | 9.32mmol, 379 mg | [H-].[Na+]
reactant | water | 4.66 mmol, 84 μL | O | H2O
product | N-[5-(tert-butoxycarbonylamino)-5-carboxypentyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 850 mg, 76% | C(C)(C)(C)OC(=O)NC(CCCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O)C(=O)O | C17H24ClN3O9S
